US09447090B2
To a solution of 1.2 g of benzyl 4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate in 30 ml of methanol was added 300 mg of 10% palladium-carbon, followed by stirring overnight under a hydrogen atmosphere. The reaction mixture was filtered over Celite and the solvent was then evaporated under reduced pressure to obtain 900 mg of methyl[4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)piperidin-4-yl]acetate.

reactant | benzyl 4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate | 1.2 g | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)CC(=O)OC | C32H40N4O6
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | methyl[4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)piperidin-4-yl]acetate | 900 mg | COC(CC1(CCNCC1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C)=O | C24H34N4O4
